US07468443B2
In 88 mL of methanol was suspended 22.0 g of 1-[3-(trityloxy)-1-azetidinyl]-1-ethanone, followed by adding thereto 66 mL of a 5 mol/L aqueous sodium hydroxide solution, and the resulting mixture was refluxed for 9 hours. The reaction mixture was distilled under reduced pressure to remove the solvent, and 110 mL of water and 220 mL of ethyl acetate were added to the residue, after which the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The oil thus obtained was dissolved in 154 mL of ethyl acetate, and to the resulting solution was added 25 mL of a 2.95 mol/L dried hydrogen chloride-ethyl acetate solution, after which the resulting mixture was stirred at room temperature. The crystals precipitated were collected by filtration to obtain 13.7 g of 3-(trityloxy)azetidine hydrochloride as colorless crystals.

reactant | 1-[3-(trityloxy)-1-azetidinyl]-1-ethanone | 22.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC1CN(C1)C(C)=O | C24H23NO2
reactant | sodium hydroxide | 5 mol/L | [OH-].[Na+]
reactant | hydrogen chloride-ethyl acetate | 2.95 mol/L | C(C)(=O)OCC.Cl
solvent | methanol | 88 mL | CO | CH4O
solvent | ethyl acetate | 154 mL | C(C)(=O)OCC | C4H8O2
product | 3-(trityloxy)azetidine hydrochloride | 13.7 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC1CNC1 | InChI=1S/C22H21NO.ClH/c1-4-10-18(11-5-1)22(24-21-16-23-17-21,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15,21,23H,16-17H2;1H
